US05919796
Preparation of O-(2-piperidinoethyl)-3-pyridinehydroximoyl chloride hydrochloride
After dissolving 6.45 g (47.0 mmoles) of 3-pyridinecarboxamidine in 120.4 ml of 0.83N potassium hydroxide solution in ethanol under stirring, 8.65 g (47.0 mmoles) of 1-(2-chloroethyl)piperidine hydrochloride are added under stirring, then the reaction mixture is boiled under reflux for 4 hours. The precipitated potassium chloride is filtered off, the filtrate is clarified by activated carbon and evaporated. The residue is dissolved in 100 ml of chloroform, and the organic solution is washed 3 times with 100 ml of 1N sodium hydroxide solution each, then with 50 ml of water. The organic phase is dried over sodium sulfate and evaporated. The residue is purified by column chromatography (adsorbent: recrystallized from ether to give 2.69 g (23.5%) of the aimed product, m. p.: 81-83° C. (from ether).

reactant | 3-pyridinecarboxamidine | 47.0 mmoles, 6.45 g | N1=CC(=CC=C1)C(=N)N | C6H7N3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 47.0 mmoles, 8.65 g | Cl.ClCCN1CCCCC1
reactant | potassium hydroxide | 0.83N, 120.4 ml | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | O-(2-piperidinoethyl)-3-pyridinehydroximoyl chloride hydrochloride | 2.69 g, 23.5% | Cl.N1(CCCCC1)CCON=C(C=1C=NC=CC1)Cl | InChI=1S/C13H18ClN3O.ClH/c14-13(12-5-4-6-15-11-12)16-18-10-9-17-7-2-1-3-8-17;/h4-6,11H,1-3,7-10H2;1H
